US05821246
Using an analogous procedure to that described in Example 38, 6-hydroxy-7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]quinazoline was reacted with 3-morpholinopropyl chloride to give 7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]-6-(3-morpholinopropoxy)quinazoline in 53% yield;

reactant | 6-hydroxy-7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]quinazoline | OC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C | C22H20N4O3
reactant | 3-morpholinopropyl chloride | O1CCN(CC1)CCCCl | C7H14ClNO
product | 7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]-6-(3-morpholinopropoxy)quinazoline | 53% yield | COC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C)OCCCN1CCOCC1 | C29H33N5O4
